US07598257B2
Step 3. (2Z)-3-Cyclopentyl-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]acrylonitrile
A solution of (2Z)-3-cyclopentyl-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin-4-yl)-1H-pyrazol-1-yl]acrylonitrile (0.030 g, 0.069 mol) in DCM (3 mL) and TFA (2 mL) was stirred for 1 hour. The solvents were removed in vacuo and the product was stirred with THF (1.5 mL), sodium hydroxide, 50% aqueous solution (0.75 mL) and water (0.75 mL) for 2 hours. The reaction mixture was neutralized by the dropwise addition of conc. HCl. The product was extracted with ethyl acetate. The combined organics were dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by preparative-HPLC/MS (C18 column eluting with a gradient of ACN/H2O containing 0.15% NH4OH) to afford the desired product (16 mg, 76%).

reactant | (2Z)-3-cyclopentyl-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin-4-yl)-1H-pyrazol-1-yl]acrylonitrile | 0.069 mol, 0.030 g | C1(CCCC1)/C(=C/C#N)/N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C23H30N6OSi
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2Z)-3-Cyclopentyl-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]acrylonitrile | 16 mg, 76% | C1(CCCC1)/C(=C/C#N)/N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C17H16N6
